US06511974B1
To a suspension of 4-(pyrazol-1-yl)benzoic acid (1.56 g) in dichloromethane (25 ml) was added oxalyl chloride (1.04 g) and one drop of dimethylformamide. The mixture was stirred at room temperature for 18 hours to yield a clear solution. The volatile material was removed under reduced pressure to afford 4-(pyrazol-1-yl)benzoyl chloride as a pale yellow solid (1.58 g), which was utilized without further purification.

reactant | 4-(pyrazol-1-yl)benzoic acid | 1.56 g | N1(N=CC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
reactant | oxalyl chloride | 1.04 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 4-(pyrazol-1-yl)benzoyl chloride | 1.58 g | N1(N=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C10H7ClN2O
